US06458772B1
b) Synthesis of 2′,3′-dideoxy-3′-fluoro-5′-O-[1-(L-valyloxy)-2-stearoyloxy-3-propyloxy carbonyl]guanosine
2′,3′-dideoxy-3′-fluoro-5′-O-[1-(N-CBz-L-valyloxy)-2-stearoyloxy-3-propyloxy carbonyl]guanosine (190 mg), was dissolved in a mixed solvent of methanol (6 ml), ethyl acetate (2 ml) and acetic acid (1 ml). To the solution was added palladium black (30 mg), and the reaction mixture was kept under hydrogen for 2 h. It was then filtered and the filtrate was evaporated and the titled product was isolated by silica gel column. 110 mg.

reactant | 2′,3′-dideoxy-3′-fluoro-5′-O-[1-(N-CBz-L-valyloxy)-2-stearoyloxy-3-propyloxy carbonyl]guanosine | 190 mg | F[C@H]1C[C@@H](O[C@@H]1COC(=O)OCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)OC(CCCCCCCCCCCCCCCCC)=O)N1C=NC=2C(=O)NC(N)=NC12 | C45H67FN6O11
solvent | methanol | 6 ml | CO | CH4O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 30 mg | [Pd] | Pd
product | 2′,3′-dideoxy-3′-fluoro-5′-O-[1-(L-valyloxy)-2-stearoyloxy-3-propyloxy carbonyl]guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(=O)OCC(COC([C@@H](N)C(C)C)=O)OC(CCCCCCCCCCCCCCCCC)=O)N1C=NC=2C(=O)NC(N)=NC12 | C37H61FN6O9
